US07819962B2
A mixture of p-nitrobenzoic acid (500 g, 3.0 moles, 1 equiv) and thionyl chloride (600 mL, 8.2 moles, 2.73 equiv) was heated to reflux for 6-7 hours until a clear solution was obtained. Excess of thionyl chloride was removed by distillation followed by co-distillation with toluene (300 mL). The reaction mass was cooled to room temperature, and hexane (1.5 L) was added, forming a precipitate, which was then filtered and dried under vacuum, yielding 4-nitrobenzoyl chloride as a yellow solid (530 g, approximately 100% yield), which was used without any further purification.

reactant | p-nitrobenzoic acid | 3.0 moles, 500 g, 1 equiv | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | thionyl chloride | 8.2 moles, 600 mL, 2.73 equiv | S(=O)(Cl)Cl | Cl2OS
product | 4-nitrobenzoyl chloride | 530 g, approximately 100% yield | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
